US06455671B1
51 ml of thionyl chloride (696.67 mmol) were added dropwise to 17 g of 2-methoxy-3-picolyl alcohol.HCl (96.76 mmol) suspended in 60 ml of DCM, the solution was stirred at room temperature for 1 h, the solvent and excess thionyl chloride were removed under reduced pressure, and the residue was codistilled 4 times with methanol under reduced pressure and subsequently extracted by stirring with ether. 15.2 g of is 2-methoxy-3-picolyl chloride hydrochloride (81%) were obtained as a white crystalline salt.

reactant | thionyl chloride | 696.67 mmol, 51 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-methoxy-3-picolyl alcohol | 17 g | COC1=NC=CC=C1CO | C7H9NO2
reactant | HCl | 96.76 mmol | Cl | ClH
solvent | DCM | 60 ml | C(Cl)Cl | CH2Cl2
product | 2-methoxy-3-picolyl chloride hydrochloride | 15.2 g, 81% | Cl.COC1=NC=CC=C1CCl | InChI=1S/C7H8ClNO.ClH/c1-10-7-6(5-8)3-2-4-9-7;/h2-4H,5H2,1H3;1H
